US04025630
3-(3-Methyl-2-octyl)-1-[4-(piperidino)butyryloxy]-6,6,9-trimethyl-7,8,9,10-tetrahydro-6H-dibenzo[b,d]pyran hydrochloride
2.5 g. (6.76 mmole) of 1-Hydroxy-3-(3-methyl-2-octyl)-6,6,9-trimethyl-7,8,9,10-tetrahydro-6H-dibenzo[b,d]pyran was combined with 1.41 g. (6.76 mmole) of γ-piperidinobutyric acid hydrochloride and 1.48 g. (7.16 mmole) of dicyclohexylcarbodiimide in 125 ml. of methylene chloride and stirred at room temperature for 16 hours. The by-product of dicyclohexylurea was removed by filtration and the filtrate was evaporated to give a light brown residue. The residue was dissolved in ether and the small amount of solid which appeared was removed by filtration. The ether was removed on a rotary evaporator and the gummy residue which remained was triturated several times with small quantities of hexane. The material was thoroughly dried to give 2.8 g. (74%) of product as a colorless powder. The material was pure by thin layer chromatography (10% MeOH/CHCl3); the infrared and nmr spectra are consistent with the desired product.

reactant | 1-Hydroxy-3-(3-methyl-2-octyl)-6,6,9-trimethyl-7,8,9,10-tetrahydro-6H-dibenzo[b,d]pyran | 6.76 mmole | OC1=CC(=CC=2OC(C3=C(C21)CC(CC3)C)(C)C)C(C)C(CCCCC)C | C25H38O2
reactant | γ-piperidinobutyric acid hydrochloride | 6.76 mmole | Cl.N1(CCCCC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | 7.16 mmole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | 3-(3-Methyl-2-octyl)-1-[4-(piperidino)butyryloxy]-6,6,9-trimethyl-7,8,9,10-tetrahydro-6H-dibenzo[b,d]pyran hydrochloride | Cl.CC(C(C)C=1C=C(C2=C(OC(C3=C2CC(CC3)C)(C)C)C1)OC(CCCN1CCCCC1)=O)CCCCC | InChI=1S/C34H53NO3.ClH/c1-7-8-10-14-25(3)26(4)27-22-30(37-32(36)15-13-20-35-18-11-9-12-19-35)33-28-21-24(2)16-17-29(28)34(5,6)38-31(33)23-27;/h22-26H,7-21H2,1-6H3;1H
